Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L ___ and ___ toe gangrene with cellulitis and right BKA site 
non healing ulcer 
 
Major Surgical or Invasive Procedure:
___ LLE angiogram
___ R BKA revision

 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of ESRD on HD 
___ via tunneled right IJ, DM2, CAD s/p 4-vessel CABG, atrial 
fibrillation with CVA on apixaban, severe PAD s/p right BKA and 
multiple bilateral lower extremity vascular angiographies and 
bypasses, presenting with gradually worsening pain from arterial 
ulcers on his left foot, and nonhealing ulcer on the stump of 
his right BKA. He reports that he has had a "scab" on the left 
___ and ___ toe for many months, which have not healed. More 
recently in the past few weeks he states that his midfoot has 
become more painful, and that the ulcerations on the toes have 
been foul smelling. He is also concerned about the lack of 
healing of a small dime-sized ulceration on the distal aspect of 
his right BKA site, and would like to have this heal so he can 
have more options for prothetics.  
He denies fevers, chills, spreading erythema, nausea, vomiting, 
abdominal pain, diarrhea, dyspnea, chest pain, weight gain. He 
presented to ___ and was admitted to the vascular surgery 
service On ___.
 
Past Medical History:
PMHx: NSTEMI/CAD (s/p 5vCABG ___, afib, ischemic 
cardiomyopathy (EF 15% ___ Cardiologist), PAD, 
DM2, chronic pain syndrome, nocturia, peripheral neuropathy, 
lumbago, CKD on HD (___), cardioembolic stroke (L 
hemiplegia, ___ Neurology), L atrial appendage clot on 
coumadin depression, ventricular tachycardia, rhabdomyolysis

PSHx: ___: LLE angiogram, L BK ___ bypass w/ NRSVG 
(Cambpell), R BKA ___, ___, R pop-DP bypass, ___ 
toe amputation ___ (___, Vascular 
surgeon Dr ___, RLE hematoma evacuation ___ 
(___), bypass graft explantation, tonsillectomy, 
Debridement ankle infection ___ Revision right ankle ligament 
reconstruction with Achilles tendon allograft ___, 5V CABG 
___.
 
Social History:
___
Family History:
CAD, DM, stroke 
 
Physical Exam:
GEN: No acute distress, alert and cooperative 
HEENT: NCAT, dentures in place, EOMI, MMM 
CV: Irregular, rate controlled (pacemaker in place) 
PULM: clear to auscultation bilaterally 
ABD: Soft, nontender, nondistended 
Ext: 
LLE: Warm, mildly edematous, warm, Forefoot painful to touch, L 
3 and ___ toe with black necrotic tissue, with well healed L ___ 
amputation site. Left forefoot is foul smelling. Dry, blanching 
erythema and edema of Left lower extremity to mid-calf. 
RLE: s/p R-BKA site revision, very light oozing from revision 
site. 
 
Pertinent Results:
___ 07:00AM BLOOD WBC-5.6 RBC-3.23* Hgb-9.6* Hct-31.2* 
MCV-97 MCH-29.7 MCHC-30.8* RDW-15.0 RDWSD-52.3* Plt ___
___ 07:35AM BLOOD WBC-4.5 RBC-3.27* Hgb-9.6* Hct-31.3* 
MCV-96 MCH-29.4 MCHC-30.7* RDW-14.8 RDWSD-52.1* Plt Ct-94*
___ 06:19AM BLOOD WBC-5.6 RBC-3.23* Hgb-9.5* Hct-31.0* 
MCV-96 MCH-29.4 MCHC-30.6* RDW-14.8 RDWSD-52.2* Plt Ct-92*
___ 06:56AM BLOOD WBC-5.4 RBC-3.27* Hgb-9.7* Hct-31.4* 
MCV-96 MCH-29.7 MCHC-30.9* RDW-14.8 RDWSD-51.5* Plt Ct-86*
___ 06:30AM BLOOD WBC-5.7 RBC-3.31* Hgb-9.8* Hct-31.3* 
MCV-95 MCH-29.6 MCHC-31.3* RDW-14.7 RDWSD-51.1* Plt Ct-84*
___ 06:35AM BLOOD WBC-7.4 RBC-3.43* Hgb-10.2* Hct-33.1* 
MCV-97 MCH-29.7 MCHC-30.8* RDW-14.8 RDWSD-51.8* Plt Ct-86*
___ 11:25PM BLOOD WBC-7.9# RBC-3.38* Hgb-10.1* Hct-32.1* 
MCV-95 MCH-29.9# MCHC-31.5* RDW-14.7 RDWSD-50.4* Plt Ct-92*
___ 07:00AM BLOOD Plt ___
___ 07:00AM BLOOD ___ PTT-36.9* ___
___ 07:35AM BLOOD Plt Ct-94*
___ 06:56AM BLOOD Plt Ct-86*
___ 06:56AM BLOOD ___ PTT-33.5 ___
___ 06:30AM BLOOD Plt Ct-84*
___ 06:18AM BLOOD ___ PTT-31.8 ___
___ 06:35AM BLOOD Plt Ct-86*
___ 06:35AM BLOOD ___ PTT-55.7* ___
___ 11:25PM BLOOD Plt Ct-92*
___ 11:25PM BLOOD ___ PTT-35.8 ___
___ 07:00AM BLOOD Glucose-194* UreaN-22* Creat-2.7* Na-145 
K-4.0 Cl-103 HCO3-25 AnGap-17*
___ 07:35AM BLOOD Glucose-175* UreaN-18 Creat-2.2* Na-144 
K-3.8 Cl-103 HCO3-25 AnGap-16
___ 06:56AM BLOOD Glucose-98 UreaN-26* Creat-2.4* Na-142 
K-4.5 Cl-101 HCO3-27 AnGap-14
___ 06:30AM BLOOD Glucose-97 UreaN-48* Creat-3.0* Na-138 
K-4.5 Cl-98 HCO3-24 AnGap-16
___ 06:35AM BLOOD Glucose-71 UreaN-40* Creat-2.9* Na-139 
K-4.7 Cl-100 HCO3-23 AnGap-16
___ 11:25PM BLOOD Glucose-212* UreaN-37* Creat-2.8* Na-136 
K-5.2* Cl-99 HCO3-25 AnGap-12
___ 07:00AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.1
___ 07:35AM BLOOD Calcium-8.5 Phos-3.4 Mg-2.1
___ 06:30AM BLOOD Calcium-8.9 Phos-4.6* Mg-2.3
___ 06:35AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.2
___ 11:25PM BLOOD Calcium-8.5 Phos-3.8 Mg-2.3

 
Brief Hospital Course:
History of Present Illness:
___ year old man with a past medical history notable for DM, ESRD 

on HD (___), ischemic cardiomyopathy with EF of ___, PAD 

s/p R BKA and most recently a L BK ___ bypass w/ NRSVG in 
___, Left ___ toe amputation in ___. Presents with
L3rd and ___ toe ischemia and possible infection, and right BKA
site non healing ulcer. On the left patients reports left
forefoot pain on touch, warmth, mild swelling and stiffness. he
denies any fever, chills, sweating, abdominal pain, tachycardia,
or SOB. patient reports small non-healing right BKA site ulcer,
started after the right BKA (___) surgery and hasn't healed
since.   

___: He was admitted to vascular surgery, eliquis held, 
subq hep started, abx vanc/cipro/flagyl started, OR scheduled 
fro LLE angiogram on ___.

___: He underwent Left lower extremity angiogram and based 
on his angio and Given that the peroneal artery is the sole 
runoff for the left lower extremity and any endovascular attempt 
to recanalize the distal SFA with a BK
popliteal segment occlusion would be too risky, would risk
damaging the sole runoff to the foot.  At this time, we planed 
for a revision of the right BKA stump and will plan for a left 
lower extremity fem to peroneal bypass with likely cadaveric 
vein in the future.  Given that the former left lower extremity
BK pop to ___ bypass is completely occluded and is non 
salvageable at this time, we stopped the heparin drip for the 
patient.

On ___: patient went for his weekly HD and the went to the 
OR for Revision below knee amputation right leg. He tolerated 
the procedure well and was transferred to the PACU and then to 
the floor in stable condition.

___: HD line replaced by ___.

___: patient went for his HD and his home restarted on his 
home Apixaban and Sertraline. 

___: He was put back on his home medication and  switched 
to Bactrim for 10 days(ID was consulted and the dosage was 
confirmed by the pharmacy) for antibiotics coverage. Patients 
was not accepted at acute rehab facility and he refused SNF.

___: He was discharge home with ___ in stable condition.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 2.5 mg PO BID 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
4. Gabapentin 100 mg PO TID 
5. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
6. OxyCODONE SR (OxyconTIN) 20 mg PO QAM 
7. Acetaminophen 1000 mg PO TID 
8. glimepiride 1 mg oral DAILY 
9. Sertraline 50 mg PO DAILY 
10. Furosemide 80 mg PO DAILY 
11. Metoprolol Tartrate 25 mg PO BID 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth 1Xdaily Disp #*13 Tablet Refills:*0 
2.  Acetaminophen 1000 mg PO TID  
3.  Apixaban 2.5 mg PO BID  
4.  Aspirin 81 mg PO DAILY  
5.  Atorvastatin 80 mg PO QPM  
6.  Furosemide 80 mg PO ONCE Duration: 1 Dose  
7.  Gabapentin 300 mg PO BID  
8.  glimepiride 1 mg oral DAILY  
9.  Metoprolol Tartrate 25 mg PO BID  
10.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone 10 mg ___ tablet(s) by mouth Q4hrs Disp #*60 
Tablet Refills:*0 
11.  OxyCODONE SR (OxyconTIN) 20 mg PO DAILY  
12.  Sertraline 150 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left ___ and ___ toe infection 
Right bellow knee amputation stump non healing ulcer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: on wheelchair.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ and 
underwent a left lower extremity angiogram and a revision of 
your right below knee amputation. You have now recovered from 
surgery and are ready to be discharged. Please follow the 
instructions below to continue your recovery:

ACTIVITY: 
• On the side of your amputation you are non weight bearing for 
___ weeks. 
• You should keep this amputation site elevated when ever 
possible. 
• You may use the opposite foot for transfers and pivots.
• No driving until cleared by your Surgeon.
• No heavy lifting greater than 20 pounds for the next 3 weeks. 

BATHING/SHOWERING: 
• You may shower when you get home
• No tub baths or pools / do not soak your foot for 4 weeks from 

your date of surgery 

WOUND CARE:
• Sutures / Staples may have been removed before discharge. If 
they are not, an appointment will be made for you to return for 
staple removal. 
• When the sutures are removed the doctor may or may not place 
pieces of tape called steri-strips over the incision. These will 

stay on about a week and you may shower with them on. If these 
do not fall off after 10 days, you may peel them off with warm 
water and soap in the shower.

CAUTIONS:
• If you smoke, please make every attempt to quit.  Your primary 

care physician can help with this.  Smoking causes narrowing of 
your blood vessels which in turn decreases circulation.  
DIET:
• Low fat, low cholesterol / if you are diabetic – follow your 
dietary restrictions as before 
CALL THE OFFICE FOR: ___
• Bleeding, redness of, or drainage from your foot wound
• New pain, numbness or discoloration of the skin on the 
effected foot
• Fever greater than 101 degrees, chills, increased redness, or 
pus draining from the incision site. 

Thank you for allowing us to participate in your care!

Sincerely, 
Your ___ Team

 
Followup Instructions:
___